US06924284B2
To 2,2-dimethyl-2,3-dihydro-1H-4,9a-diaza-fluoren-9-one (1.5 g, 7.0 mmol) in EtOH (17.5 mL), hydrazine hydrate (0.98 mL) was added and the mixture was heated at reflux for 3½ h. Crystallization provided 0.994 g (58%) of 4-(3-amino-2,2-dimethyl-propylamino)-2H-phthalazin-1-one.

reactant | 2,2-dimethyl-2,3-dihydro-1H-4,9a-diaza-fluoren-9-one | 7.0 mmol, 1.5 g | CC1(CN2C(C3=CC=CC=C3C2=NC1)=O)C | C13H14N2O
reactant | hydrazine hydrate | 0.98 mL | O.NN
solvent | EtOH | 17.5 mL | CCO | C2H6O
product | 4-(3-amino-2,2-dimethyl-propylamino)-2H-phthalazin-1-one | 0.994 g, 58% | NCC(CNC1=NNC(C2=CC=CC=C12)=O)(C)C | C13H18N4O
